US06878714B2
4-(2-tert-Butyl-5-nitro-phenyl)-but-3-enal (895 mg) was dissolved in 40 ml THF, and to the solution was added pyrrolidine (0.317 ml). To the deep orange solution was added NaBH(OAc)3 (1.151 g) and glacial AcOH (0.207 ml). The reaction was stirred at RT overnight, then treated with saturated aqueous NaHCO3 and diluted with Et2O and some 1N NaOH. The layers were separated, and the organic layer was extracted with aqueous 2N HCl. The acidic aqueous layer was basified to pH>12 with 6 N NaOH, extracted with Et2O, brine-washed, dried over Na2SO4, filtered, and concentrated in vacuo to provide 1-[4-(2-tert-butyl-5-nitro-phenyl)-but-3-enyl]-pyrrolidine as a orange-brown oil.

reactant | 4-(2-tert-Butyl-5-nitro-phenyl)-but-3-enal | 895 mg | C(C)(C)(C)C1=C(C=C(C=C1)[N+](=O)[O-])C=CCC=O | C14H17NO3
reactant | pyrrolidine | 0.317 ml | N1CCCC1 | C4H9N
reactant | NaBH(OAc)3 | 1.151 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | NaOH | 1N | [OH-].[Na+]
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | Et2O | CCOCC | C4H10O
solvent | AcOH | 0.207 ml | CC(=O)O | C2H4O2
product | 1-[4-(2-tert-butyl-5-nitro-phenyl)-but-3-enyl]-pyrrolidine | C(C)(C)(C)C1=C(C=C(C=C1)[N+](=O)[O-])C=CCCN1CCCC1 | C18H26N2O2
